US07160881B2
4-(4-Fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-nicotinamide can be produced by suspending N-tert-Butyl-4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-nicotinamide in toluene. The suspension is heated with the dropwise addition of methanesulfonic acid to provide an emulsion, which is then stirred and cooled to room temperature. The phases are separated and the organic phase washed with deionized water. The combined aqueous phases are cooled to about 0° C., followed by the slow addition of 28% aqueous sodium hydroxide to increase the pH to about 12.5. The suspension obtained then can be extracted with dichloromethane. The combined organic extracts are dried and concentrated in a rotary evaporator. Propyl acetate is then added, and the solution concentrated in a rotary evaporator. A second portion of propyl acetate is added, and the solution concentrated to form a suspension. N-hexane is added to the suspension, followed by stirring. The resulting precipitate is filtered off, washed with n-hexane:propyl acetate 9:1, and dried in a vacuum oven to yield 4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-nicotinamide as a light yellow powder.

reactant | N-tert-Butyl-4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-nicotinamide | C(C)(C)(C)NC(C1=CN=C(C=C1C1=C(C=C(C=C1)F)C)N1CCSCC1)=O | C21H26FN3OS
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-fluoro-2-methyl-phenyl)-6-thiomorpholin-4-yl-nicotinamide | FC1=CC(=C(C=C1)C1=CC(=NC=C1C(=O)N)N1CCSCC1)C | C17H18FN3OS
